US05112847
Synthesis of N-(2-isopropyl-6-phenylhexanoyl)-L-prolinal
N-(2-isopropyl-6-phenylhexanoyl)-L-prolinol was dissolved in dry DMSO (1.5 ml). Triethylamine (0.35 ml) was added to this solution. A solution of sulfur trioxide-pyridine complex (414 mg) in DMSO (1 ml) was dropped to this solution. The solution was stirred for 10 mins and poured into water. The mixture was extracted with ethyl acetate. The oily layer was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrocarbonate, followed by saturated brine, dried and evaporated. The residue was purified by column chromatography on silica gel to give the title compound (150 mg) having the following physical data:

reactant | N-(2-isopropyl-6-phenylhexanoyl)-L-prolinol | C(C)(C)C(C(=O)N1[C@H](CO)CCC1)CCCCC1=CC=CC=C1 | C20H31NO2
reactant | Triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | N-(2-isopropyl-6-phenylhexanoyl)-L-prolinal | 150 mg | C(C)(C)C(C(=O)N1[C@H](C=O)CCC1)CCCCC1=CC=CC=C1 | C20H29NO2
